US07498460B2
Ethyl 3-{[3-(2-ethoxy-2-oxoethyl)azetidin-1-yl]carbonyl}-4-{3-[4-(4-phenoxybutoxy)phenyl]-propoxy}benzoate
Preparation takes place in analogy to Example IX, method 3, from 3-(2-ethoxy-2-oxoethyl)azetidinium chloride and 5-(ethoxycarbonyl)-2-{3-[4-(4-phenoxybutoxy)-phenyl]propoxy}benzoic acid.

reactant | 3-(2-ethoxy-2-oxoethyl)azetidinium chloride | [Cl-].C(C)OC(CC1C[NH2+]C1)=O
reactant | 5-(ethoxycarbonyl)-2-{3-[4-(4-phenoxybutoxy)-phenyl]propoxy}benzoic acid | C(C)OC(=O)C=1C=CC(=C(C(=O)O)C1)OCCCC1=CC=C(C=C1)OCCCCOC1=CC=CC=C1 | C29H32O7
product | Ethyl 3-{[3-(2-ethoxy-2-oxoethyl)azetidin-1-yl]carbonyl}-4-{3-[4-(4-phenoxybutoxy)phenyl]-propoxy}benzoate | C(C)OC(CC1CN(C1)C(=O)C=1C=C(C(=O)OCC)C=CC1OCCCC1=CC=C(C=C1)OCCCCOC1=CC=CC=C1)=O | C36H43NO8
